US07977352B2
F.18 1-(4-Nitrophenyl)-4-propylpiperazine
Following the general procedure described above for the synthesis of 1-isopentyl-4-(4-nitrophenyl)piperazine, treatment of 1-(4-nitrophenyl)piperazine (5.00 g, 24.1 mmol, 1.0 eq) with isovaleraldehyde (4.16 g, 5.18 mL, 48.3 mmol, 3 eq) at RT for 48 h provided the title compound as a yellow solid (5.34 g, 89% recovery, 93% purity as determined by LC/MS analysis @ UV 254 nm detection). In this case, upon addition of hexane (25 mL) to the crude residue, obtained from evaporation of the DCM extract, and stirring for 24 h the product precipitated from solution, was collected by filtration, washed with hexanes (2×25 ml), and was dried under vacuum. The crude product is used in the next step without further purification. LCMS-ESI (m/z): calcd for C13H19N3O2, 249; [M+H]+ found, 250.

reactant | 1-isopentyl-4-(4-nitrophenyl)piperazine | C(CC(C)C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H23N3O2
reactant | 1-(4-nitrophenyl)piperazine | 24.1 mmol, 5.00 g, 1.0 eq | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | isovaleraldehyde | 48.3 mmol, 5.18 mL, 4.16 g, 3 eq | C(CC(C)C)=O | C5H10O
product | 1-(4-Nitrophenyl)-4-propylpiperazine | 5.34 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CCC | C13H19N3O2
